US04537993
Using the procedure of Example 1, isopentyl phosphine is reacted at 70°-90° C. with ethylacrylate to give isopentylbis(carbethoxyethyl)phosphine. The latter is oxidized with hydrogen peroxide and hydrolyzed with aqueous dilute hydrochloric acid to give the corresponding acid, isopentylbis(β-carboxyethyl)phosphine oxide.

reactant | isopentyl phosphine | C(CC(C)C)P | C5H13P
reactant | ethylacrylate | C(C)OC(C=C)=O | C5H8O2
product | isopentylbis(carbethoxyethyl)phosphine | C(CC(C)C)P(CCC(=O)OCC)CCC(=O)OCC | C15H29O4P
